US09382222B2
A solution of isobutylamine (6.64 mL, 66.8 mmol) and pyridine (6.24 mL, 77.1 mmol) in DCM (100 mL) was treated with 4-fluorobenzene sulfonyl chloride (10.0 g, 51.4 mmol) and stirred at room temperature for 18 hours. The mixture was diluted with DCM, washed with 1 N aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Trituration with pentane gave 4-fluoro-N-isobutyl-benzenesulfonamide (10.48 g, 88%) as a pale yellow solid. 1H NMR (400 MHz, DMSO) δ 7.88-7.81 (m, 2H), 7.63 (t, J=6.1 Hz, 1H), 7.47-7.39 (m, 2H), 2.54 (t, J=6.5 Hz, 2H), 1.67-1.55 (m, 1H), 0.80 (d, J=6.7 Hz, 6H). LCMS (m/z, Method B) ES+ 232.0 [M+1]+.

reactant | isobutylamine | 66.8 mmol, 6.64 mL | C(C(C)C)N | C4H11N
reactant | pyridine | 77.1 mmol, 6.24 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorobenzene sulfonyl chloride | 51.4 mmol, 10.0 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-N-isobutyl-benzenesulfonamide | 10.48 g, 88% | FC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C10H14FNO2S
